US09102692B2
A mixture consisting of [5-amino-1-(2-methyl-3H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-[6-bromo-1-(toluene-4-sulfonyl)-1H-indol-2-yl]-methanone (1 g), copper (I) iodide (161 mg), sodium iodide (508 mg), trans-N,N′-dimethylcyclohexane-1,2-diamine (267 μl), and anhydrous dioxane (5 ml) was stirred in a pressure-proof container at 105 to 112° C. under a nitrogen atmosphere for 20 hours. The reaction mixture was poured into an aqueous solution of 2 M ammonia, and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous sodium sulfate. The desiccant was removed by filtration. The filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (methanol/dichloromethane=0/100 to 20/100) to give [5-amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-[6-iodo-1-(toluene-4-sulfonyl)-1H-indol-2-yl]-methanone (0.67 g, 62%).

reactant | [5-amino-1-(2-methyl-3H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-[6-bromo-1-(toluene-4-sulfonyl)-1H-indol-2-yl]-methanone | 1 g | NC1=C(C=NN1C1=CC2=C(N=C(N2)C)C=C1)C(=O)C=1N(C2=CC(=CC=C2C1)Br)S(=O)(=O)C1=CC=C(C=C1)C | C27H21BrN6O3S
reactant | sodium iodide | 508 mg | [I-].[Na+]
reactant | trans-N,N′-dimethylcyclohexane-1,2-diamine | 267 μl | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | ammonia | 2 M | N | H3N
catalyst | copper (I) iodide | 161 mg | [Cu]I
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | [5-amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-[6-iodo-1-(toluene-4-sulfonyl)-1H-indol-2-yl]-methanone | 0.67 g, 62% | NC1=C(C=NN1C1=CC2=C(NC(=N2)C)C=C1)C(=O)C=1N(C2=CC(=CC=C2C1)I)S(=O)(=O)C1=CC=C(C=C1)C | C27H21IN6O3S
